US06939885B2
Synthesis of N-[4-Chloro-2-(pyridine-4-carbonyl)-phenyl]-4-oxazol-5-yl-benzenesulfonamide
The title compound was prepared according to the general procedure for the synthesis of N-Aryl-benzenesulfonamides previously described using 116 mg of (2-Amino-5-chloro-phenyl)-pyridin-4-yl-methanone and 122 mg 4-oxazol-5-yl-benzenesulfonyl chloride. Purification by purification by reversed phase HPLC gave pure product. 1H-NMR (400 MHz, CDCl3): δ 7.21 (dd, H, J=1.5, 4.4 Hz), 7.30 (d, 1H, J=2.5 Hz), 7.42 (s, 1H), 7.54 (dd, 1H, J=2.5, 8.8 Hz), 7.61 (d, 2H, J=8.4 Hz), 7.77 (s, 1H), 7.78 (d, 2H, J=8.4 Hz), 7.95 (s, 1H), 8.69 (d, 2H, J=5.8 Hz), 10.06 (br, 1H). MS: m/z 440.9 (M++1).

reactant | (2-Amino-5-chloro-phenyl)-pyridin-4-yl-methanone | 116 mg | NC1=C(C=C(C=C1)Cl)C(=O)C1=CC=NC=C1 | C12H9ClN2O
reactant | 4-oxazol-5-yl-benzenesulfonyl chloride | 122 mg | O1C=NC=C1C1=CC=C(C=C1)S(=O)(=O)Cl | C9H6ClNO3S
product | N-[4-Chloro-2-(pyridine-4-carbonyl)-phenyl]-4-oxazol-5-yl-benzenesulfonamide | ClC1=CC(=C(C=C1)NS(=O)(=O)C1=CC=C(C=C1)C1=CN=CO1)C(=O)C1=CC=NC=C1 | C21H14ClN3O4S
